US08278328B2
Description 117. [4-({[4-(Methyloxy)phenyl]methyl}oxy)-3-nitrophenyl]methanol. (D117)
To a solution of 4-(hydroxymethyl)-2-nitrophenol (2.20 g, 13.01 mmol) in DMF (60 mL) was added cesium carbonate (8.48 g, 26.0 mmol) followed by the portionwise addition of 4-methoxybenzyl chloride (3.06 g, 19.51 mmol). After stirring at rt for 45 mins additional 4-methoxybenzyl chloride (2.037 g, 13.01 mmol) was added followed by tetrabutylammonium iodide (2.402 g, 6.50 mmol). The reaction mixture was stirred at rt for 18 hr and then diluted with EtOAc (200 mL) and washed successively with water, 10% aq. K2CO3, water and finally brine, dried (MgSO4), filtered and concentrated to dryness in vacuo. The residue was purified by silica gel chromatography eluting with 10-50% EtOAc in isohexane to afford the title compound as a cream solid, 2.17 g, 57.7%.

reactant | 4-(hydroxymethyl)-2-nitrophenol | 13.01 mmol, 2.20 g | OCC1=CC(=C(C=C1)O)[N+](=O)[O-] | C7H7NO4
reactant | cesium carbonate | 26.0 mmol, 8.48 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-methoxybenzyl chloride | 19.51 mmol, 3.06 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 4-methoxybenzyl chloride | 13.01 mmol, 2.037 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 6.50 mmol, 2.402 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | [4-({[4-(Methyloxy)phenyl]methyl}oxy)-3-nitrophenyl]methanol | COC1=CC=C(C=C1)COC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C15H15NO5
